US05210208
To a solution of N-methyl-N-phenethyl-2-[3-hydroxymethylpyrrol-1-yl]acetamide and pyridine in methylene chloride is added dropwise 2 molar equivalents of thionyl chloride. The resulting mixture is stirred at room tenperature for 18 hours and ethyl acetate is added. The solution is washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue obtained is purified by a silica gel flash column to give N-methyl-N-phenethyl-2-[3-chloromethylpyrrol-l-yl]acetamide which is used directly in the next step.

reactant | N-methyl-N-phenethyl-2-[3-hydroxymethylpyrrol-1-yl]acetamide | CN(C(CN1C=C(C=C1)CO)=O)CCC1=CC=CC=C1 | C16H20N2O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-methyl-N-phenethyl-2-[3-chloromethylpyrrol-l-yl]acetamide | CN(C(CN1C=C(C=C1)CCl)=O)CCC1=CC=CC=C1 | C16H19ClN2O
